US04438120
6-Chloro-3-cyclohexylmethyl-1,2,3,4,8,9-hexahydropyrido[4',3':2,3]indolo[1,7-ab][1,4]benzodiazepine
A solution of borane in tetrahydrofuran (1 M, 50 ml) was added carefully to a stirred solution-suspension of 6-chloro-3-cyclohexylcarbonyl-1,2,3,4-tetrahydropyrido[4',3':2,3]indolo[1,7-ab][1,4]benzodiazepin-9(8H)-one (3.0 g) in tetrahydrofuran (100 ml) and the resulting mixture refluxed for 2 hours, cooled and the excess of borane destroyed by dropwise addition of water. The mixture was then evaporated to dryness under reduced pressure and the residue refluxed with a mixture of 1-octene (50 ml) and xylene (80 ml) for 1 hour and xylene and the combined filtrates were evaporated under reduced pressure. The residue was triturated with a small quantity of ether, filtered, and recrystallized from a mixture of 2-propanol and ethanol to yield the title compound, m.p. 230°-233° (dec.).

reactant | borane | B | BH3
reactant | 6-chloro-3-cyclohexylcarbonyl-1,2,3,4-tetrahydropyrido[4',3':2,3]indolo[1,7-ab][1,4]benzodiazepin-9(8H)-one | 3.0 g | ClN1C=2C=3N(C4=C(C1)CC(CC4)C(=O)C4CCCCC4)C4=C(C3C(CC2)=O)C=NC=C4 | C25H26ClN3O2
solvent | tetrahydrofuran | 1 M, 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-Chloro-3-cyclohexylmethyl-1,2,3,4,8,9-hexahydropyrido[4',3':2,3]indolo[1,7-ab][1,4]benzodiazepine | ClN1C=2C=3N(C4=C(C1)CC(CC4)CC4CCCCC4)C4=C(C3CCC2)C=NC=C4 | C25H30ClN3
